US07572809B2
Similar procedure as described in example 10 was used, starting from 4-methoxy-phenol and (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine to give [1-(4-methoxy-phenoxy)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 333(MH+).

reactant | 4-methoxy-phenol | COC1=CC=C(C=C1)O | C7H8O2
reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
product | [1-(4-methoxy-phenoxy)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | COC1=CC=C(OC2=NC(=CC3=CC=CC=C23)NC2=NNC=C2)C=C1 | C19H16N4O2
